US06638321B1
a) Preparation of 1-[2-(2-Methoxy-4-nitrophenylamino)ethyl]-3-methyl-3H-imidazol-1-ium Bromide
A mixture of 46.8 g (0.17 mol) of (2-bromoethyl)-(2-methoxy-4-nitrophenyl)amine and 20.5 g (0.25 mol) of 1-methyl-1H-imidazole in 170 ml of toluene was refluxed for 7 hours.

reactant | (2-bromoethyl)-(2-methoxy-4-nitrophenyl)amine | 0.17 mol, 46.8 g | BrCCNC1=C(C=C(C=C1)[N+](=O)[O-])OC | C9H11BrN2O3
reactant | 1-methyl-1H-imidazole | 0.25 mol, 20.5 g | CN1C=NC=C1 | C4H6N2
solvent | toluene | 170 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(2-Methoxy-4-nitrophenylamino)ethyl]-3-methyl-3H-imidazol-1-ium Bromide | [Br-].COC1=C(C=CC(=C1)[N+](=O)[O-])NCC[N+]1=CN(C=C1)C | InChI=1S/C13H17N4O3.BrH/c1-15-7-8-16(10-15)6-5-14-12-4-3-11(17(18)19)9-13(12)20-2;/h3-4,7-10,14H,5-6H2,1-2H3;1H/q+1;/p-1
